US08426437B2
This compound is prepared according to synthesis 25, from 150 mg (0.46 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid (synthesis 2) and 62 μL (0.55 mmol) of 3-methoxyaniline. After purification by chromatography on silica (eluent dichloromethane/methanol 95/5) then trituration in diethyl ether, 29 mg (14%) of 8-(3-methoxy-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-ethyl carboxylate is obtained in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.46 mmol, 150 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | 3-methoxyaniline | 0.55 mmol, 62 μL | COC=1C=C(N)C=CC1 | C7H9NO
product | 8-(3-methoxy-phenylsulfamoyl)-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-ethyl carboxylate | 29 mg, 14% | COC=1C=C(C=CC1)NS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3.C(C)C(=O)[O-] | InChI=1S/C18H15N3O4S.C3H6O2/c1-25-12-4-2-3-11(9-12)21-26(23,24)13-5-6-16-15(10-13)14-7-8-19-17(14)18(22)20-16;1-2-3(4)5/h2-10,19,21H,1H3,(H,20,22);2H2,1H3,(H,4,5)/p-1
